US07632838B2
(S)-tert-butyl 1-oxopropan-2-ylcarbamate (Boc-L-Alaninal) (3.0 g, 17.32 mmol) and (R)-1-aminopropan-2-ol (1.95 g, 25.98 mmol) in anhydrous methanol (120 mL) was hydrogenated at 1 atmosphere overnight using palladium, 10% wt. on activated carbon (900 mg) as catalyst. Reaction was complete as determined by TLC using CAN spray to visualize. The reaction mixture was then filtered through a celite bed. After solvent evaporation crude product was diluted with ethyl acetate, washed with saturated NAHCO3 (aq.) and dried over MgSO4. Solvent evaporation afforded tert-butyl (S)-1-[(R)-2-hydroxypropylamino]propan-2-ylcarbamate] in 98.5% yield (3.95 g). It was carried to the next step without further purification.

reactant | (S)-tert-butyl 1-oxopropan-2-ylcarbamate | 17.32 mmol, 3.0 g | O=C[C@H](C)NC(OC(C)(C)C)=O | C8H15NO3
reactant | (R)-1-aminopropan-2-ol | 25.98 mmol, 1.95 g | NC[C@@H](C)O | C3H9NO
reactant | CAN | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | methanol | 120 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | tert-butyl (S)-1-[(R)-2-hydroxypropylamino]propan-2-ylcarbamate | 98.5% yield | O[C@@H](CNC[C@H](C)NC(OC(C)(C)C)=O)C | C11H24N2O3
